US07067529B2
To a stirred solution 3-amino-2-(3,4-dimethoxy-phenyl)-propionic acid ethyl ester hydrochloride (6.5 g, 25.8 mmol) and (3-sec-butoxy-phenyl)-acetic acid (5.9 g, 28.4 mmol) in N,N-dimethylformamide (130 mL) was added O-benzotriazole-N,N,N′,N′-tetramethyl-uronium hexaflurophosphate (HBTU) (11.8 g, 31.1 mmol) and diisopropylethylamine (14.8 mL, 85.0 mmol). The reaction mixture was stirred at room temperature for 15 hrs. The solvent was evaporated and the residue was diluted with ethyl acetate and saturated sodium bicarbonate solution. The aqueous phase was extracted with ethyl acetate (3×100 mL). The combined extracts were washed with 1N hydrogen chloride solution (50 mL), water (50 mL), saturated aqueous sodium chloride solution (50 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 40% ethyl acetate/hexane, 100% ethyl acetate) afforded 3-[2-(3-sec-butoxy-phenyl)-acetylamino]-2-(3,4-dimethoxy-phenyl)-propionic acid ethyl ester (11.2 g, 98% yield) as a red oil.

reactant | 3-amino-2-(3,4-dimethoxy-phenyl)-propionic acid ethyl ester hydrochloride | 25.8 mmol, 6.5 g | Cl.C(C)OC(C(CN)C1=CC(=C(C=C1)OC)OC)=O
reactant | (3-sec-butoxy-phenyl)-acetic acid | 28.4 mmol, 5.9 g | C(C)(CC)OC=1C=C(C=CC1)CC(=O)O | C12H16O3
reactant | O-benzotriazole-N,N,N′,N′-tetramethyl-uronium hexaflurophosphate | 31.1 mmol, 11.8 g | CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 85.0 mmol, 14.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 130 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-[2-(3-sec-butoxy-phenyl)-acetylamino]-2-(3,4-dimethoxy-phenyl)-propionic acid ethyl ester | 11.2 g, 98% yield | C(C)OC(C(CNC(CC1=CC(=CC=C1)OC(C)CC)=O)C1=CC(=C(C=C1)OC)OC)=O | C25H33NO6
